US03956260
54. H-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-NH2
3.95 g of Z-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-NH2 are dissolved in 80 ml of methanol and the solution is hydrogenated in the presence of 600 mg of palladium charcoal (10 % Pd). After completion of the hydrogenation the catalyst is filtered off, the filtrate is evaporated to a volume of 10 ml, 20 ml of benzene are added, the mixture again concentrated to 10 ml, and the product precipitated with 70 ml of petroleum ether. The smeary precipitate is triturated to give a powder, filtered and dried; yield 3.3 g. On thin layer chromatography on silica gel plates Rf43C = 0.27; Rf52 = 0.24; Rf in chloroform-methanol (8:2) = 0.10.

reactant | Z-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-NH2 | 3.95 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N2[C@H](C(=O)N)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C48H68N8O12
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium charcoal | 600 mg | [Pd] | Pd
product | H-Gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-NH2 | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N2[C@H](C(=O)N)CCC2)CCC1 | C40H62N8O10
